US06153652
Synthesis of N-[(3-chlorophenyl)acetyl]alanine 2-(N,N-dimethylamino)ethyl ester
Following General Procedure C' above, and using N-(3-chlorophenylacetyl)alanine (from Example D' above) and 2-(N,N-dimethyl amino) ethanol (Aldrich), the title compound can be prepared. The reaction was monitored by tlc on silica gel and purification was by liquid chromatography using 0.1:2:0.79 NH4OH:EtOH:CHCl3 as the eluant.

reactant | N-(3-chlorophenylacetyl)alanine | ClC=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)O | C11H12ClNO3
reactant | 2-(N,N-dimethyl amino) ethanol | CN(C)CCO | C4H11NO
product | N-[(3-chlorophenyl)acetyl]alanine 2-(N,N-dimethylamino)ethyl ester | CN(C)CCOC([C@@H](NC(CC1=CC(=CC=C1)Cl)=O)C)=O | C15H21ClN2O3
